US07968570B2
A mixture of 1-(4-trifluoromethoxy-phenyl)-ethylamine (0.246 mL, 1.2 mmol), 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester (0.372 g, 1.0 mmol), and K2CO3 (0.276 g, 2 mmol) in toluene (3 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-Fluoro-7-iodo-2-[1-(4-trifluoromethoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one (0.192 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.68 (d, 3H), 3.88-4.26 (dd, 2H), 5.78 (q, 1H), 7.06 (d, 1H), 7.20 (d, 2H), 7.41 (d, 2H), 7.67 (d, 1H). GC-MS: m/z 465 (M)+, 450 (M−15)+.

reactant | 1-(4-trifluoromethoxy-phenyl)-ethylamine | 1.2 mmol, 0.246 mL | FC(OC1=CC=C(C=C1)C(C)N)(F)F | C9H10F3NO
reactant | 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester | 1.0 mmol, 0.372 g | COC(C1=C(C=C(C=C1I)F)CBr)=O | C9H7BrFIO2
reactant | K2CO3 | 2 mmol, 0.276 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Fluoro-7-iodo-2-[1-(4-trifluoromethoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one | 0.192 g, 41% | FC=1C=C2CN(C(C2=C(C1)I)=O)C(C)C1=CC=C(C=C1)OC(F)(F)F | C17H12F4INO2
